US07985753B2
2-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-1-methyl-1,2,3,4-tetrahydro-isoquinoline-5-carbonitrile
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 1-Methyl-1,2,3,4-tetrahydro-isoquinoline-5-carbonitrile to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 1-Methyl-1,2,3,4-tetrahydro-isoquinoline-5-carbonitrile | CC1NCCC=2C(=CC=CC12)C#N | C11H12N2
product | 2-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-1-methyl-1,2,3,4-tetrahydro-isoquinoline-5-carbonitrile | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C=1C=CC=C(C1CC2)C#N)C | C18H14BrN5O
